US07919506B2
Step E: Preparation of N-(2-(cyclohexyl(methoxy)methyl)-5-(trifluoromethyl)benzyl)(3,5-bis(trifluoromethyl)phenyl)methanamine
A mixture of 2-(cyclohexyl(methoxy)methyl)-5-(trifluoromethyl)benzaldehyde (107 my, 0.36 mmol) and 3,5-bistrifluoromethylbenzylamine (113.8 mg, 0.37 mmol) in ethanol was stirred at room temperature overnight. Sodium borohydride (16.5 mg, 0.44 mmol) was added and the mixture was stirred at room temperature overnight. Solvent was removed and the residue was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by chromatography over 25+S Biotage silica column (eluted with 0-15% ethyl acetate in heptane) to afford the title compound (150 mg, 80%). 1H NMR (400 MHz, CDCl3) δ ppm 0.94-1.23 (m, 6H) 1.51-1.59 (m, 1H) 1.62 (d, J=7.05 Hz, 2H) 1.69-1.78 (m, 1H) 1.99 (d, J=12.45 Hz, 1H) 3.17 (s, 3H) 3.83 (d, J=12.86 Hz, 1H) 3.92 (d, J=12.86 Hz, 1H) 4.00 (d, J=6.64 Hz, 2H) 4.22 (d, J=7.05 Hz, 1H) 7.50 (d, J=8.30 Hz, 1H) 7.55 (d, J=7.88 Hz, 1H) 7.63 (s, 1H) 7.80 (s, 1H) 7.86 (s, 2H). MS (ES30) Calc: 527.2, Found: 528.5 (M+1).

reactant | 2-(cyclohexyl(methoxy)methyl)-5-(trifluoromethyl)benzaldehyde | 0.36 mmol | C1(CCCCC1)C(C1=C(C=O)C=C(C=C1)C(F)(F)F)OC | C16H19F3O2
reactant | 3,5-bistrifluoromethylbenzylamine | 0.37 mmol, 113.8 mg | FC(C=1C=C(CN)C=C(C1)C(F)(F)F)(F)F | C9H7F6N
reactant | Sodium borohydride | 0.44 mmol, 16.5 mg | [BH4-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | N-(2-(cyclohexyl(methoxy)methyl)-5-(trifluoromethyl)benzyl)(3,5-bis(trifluoromethyl)phenyl)methanamine | 150 mg, 80% | C1(CCCCC1)C(C1=C(CNCC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C(F)(F)F)OC | C25H26F9NO
